Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypertensive Urgency
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ M who presented to ___ with a 
complaint of lightheadedness beginning when he woke up the 
morning of ___. He denied any chest pain, falls, loss of 
consciousness, fevers, weakness. He reports that he was taking 
1200mg-2000mg of Ibuprofen since ___ every ___ for right 
arm pain. He presented to the ED at ___ with worsening 
lightheadness. In the ED at ___ was 225/150 HR 69 
and treated with Labetalol IV and then started on Labetalol gtt. 
Upon arrival to ___, dizziness had improved with improved BP. 
CT and MRI from ___ showed no acute changes though MRI 
showed chronic small vessel disease. ECG notable for T-wave 
inversions in inferior leads and LVH but troponins were normal 
range.

 
Past Medical History:
None.
 
Social History:
___
Family History:
Father died of complications from COPD. Mother died of uterine 
cancer. 
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: T 97.4 BP 164/92 HR 55 RR 16 SaO2 98
General: alert, oriented, no acute distress. Lying in bed.   
HEENT: sclera anicteric 
Neck: supple, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal

DISCHARGE PHYSICAL EXAM:
Vitals: T 97.4 BP 164/92 HR 55 RR 16 SaO2 98
Orthostatic vitals:
Lying 162/100 HR 64
Standing 160/113 HR 73
General: alert, oriented, no acute distress. Lying in bed.   
HEENT: sclera anicteric 
Neck: supple, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis 
 
Pertinent Results:
___ 11:13PM   WBC-11.7* RBC-4.66 HGB-13.7 HCT-40.7 MCV-87 
MCH-29.4 MCHC-33.7 RDW-12.5 RDWSD-39.3
___ 11:13PM   TSH-1.4
___ 11:13PM   ALBUMIN-4.0 CALCIUM-9.3 PHOSPHATE-4.0 
MAGNESIUM-2.1
___ 11:13PM   cTropnT-<0.01
___ 11:13PM   ALT(SGPT)-53* AST(SGOT)-33 LD(LDH)-165 ALK 
PHOS-87 TOT BILI-0.2
___ 11:13PM   GLUCOSE-111* UREA N-17 CREAT-1.2 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-100 TOTAL CO2-22 ANION GAP-18
___ 02:28AM URINE  HYALINE-5*
___ 02:28AM URINE  RBC-5* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 02:28AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

DISCHARGE LABS:
___ 07:30AM   ___ PTT-30.5 ___
___ 07:30AM   ALBUMIN-3.9 CALCIUM-9.0 PHOSPHATE-4.2 
MAGNESIUM-2.0
___ 07:30AM   WBC-9.6 RBC-4.59* HGB-13.6* HCT-40.1 MCV-87 
MCH-29.6 MCHC-33.9 RDW-12.5 RDWSD-39.6
___ 07:30AM   cTropnT-<0.01
___ 07:30AM   GLUCOSE-85 UREA N-15 CREAT-1.1 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-23 ANION GAP-17

IMAGING:

___ HEAD W/O CONTRAST ___
CT HEAD WITHOUT CONTRAST

IMPRESSION: 
Nonspecific low-attenuation focus along the convexity of the 
junction 
of the left frontal and parietal lobes. Recommend further 
imaging
evaluation with MRI of the head

___ MRI BRAIN ___
FINDINGS:
PARENCHYMA: There is no evidence of mass or acute stroke.
There are numerous bilateral foci of increased T2 signal within 
the 
periventricular and subcortical white matter most likely the 
result of
chronic small vessel ischemic change. There is no focal signal
abnormality within the corpus callosum, brainstem, or 
cerebellum.

IMPRESSION:
No acute intracranial abnormality

 
Brief Hospital Course:
Mr. ___ is a ___ with no PMHx who is presenting with 
hypertensive urgency in the setting of high-dose ibuprofen use.  


#Hypertensive urgency: Presented with lightheadedness. Head 
imaging reassuring for no acute process. However, MRI did show 
evidence of chronic small vessel ischemic changes. SBP's in the 
200's on presentation. No proteinuria, and Cr of 1.2. ECG c/f 
ventricular hypertrophy suggesting long standing hypertension, 
and likely accelerated by excessive ibuprofen use recently. 
Troponins NEG x2. TSH=1.4. BP improved with labetalol drip and 
observed overnight on no meds. BP trended back up to 160's to 
180's. He was started on HCTZ and amlodipine. Asymptomatic at 
discharge, and needs close PCP follow up to check electrolytes 
and adjust medications.

# Lightheadedness: Pt felt lightheadedness when he woke up on 
the morning of ___. Most likely due to hypertensive urgency 
from recent ibuprofen use. Denies any falls, loss of 
consciousness. NEG Orthostatic vital signs. Asymptomatic at 
discharge. 

# Leukocytosis: Resolved. Likely reactive to hypertensive 
urgency. No fevers or signs of infection.   

[] Patient instructed to set-up a Primary Care Physician 
appointment at ___. 
[] Patient was discharged on Hydrochlorothiazide 25mg and 
Amlodipine 5mg
[] Check a Chem 7 for electrolytes and creatinine at follow up 
visit
[] Given small vessel ischemic disease on MRI and ECG changes, 
likely has atherosclerotic disease, and should consider 
outpatient stress testing and aspirin for primary/secondary 
prevention
[]Please trend blood pressures and adjust doses of medication as 
appropriate

FULL CODE 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400-600 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Hypertensive Urgency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Why was I here?
You were admitted to the hospital because you were experiencing 
lightheadedness and your blood pressure was very high. 

2. What was done for me while I was here?
In the Emergency Department you were give a medication that 
decreased your blood pressure. While you were in the hospital we 
did some lab tests which showed that you were not having a heart 
attack. We put a heart monitor on you which showed that you may 
have had high blood pressure for a while.

3. What will I do when I leave the hospital?
We would like for you to set up an appointment with a Primary 
Care Physician at ___ so that he/she can monitor your 
blood pressures. We have started you on a blood pressure 
medication called Hydrochlorothiazide. You will start taking 
this medication daily. We advise that you eat foods that have a 
lot of potassium such as bananas, prunes, raisins, and orange 
juice. We advise that you stop all ibuprofen use at this time. 
For pain management we advise using Tylenol.
 
Followup Instructions:
___